US09079889B2
To a solution of tert-butyl (3R,4R,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpiperidin-3-ylcarbamate (1.0 equiv.) in i-PrOH (0.09 M) was added DIEA (2.5 equiv.) and 4-chloro-3-nitropyridine (1.5 equiv.). The reaction mixture was stirred at 60° C. for 2 hours. The volatiles were removed under vacuo, the residue was diluted with ethyl acetate and washed with sat. NaCl. The organic phase was dried with magnesium sulfate, filtered, and concentrated. The crude material was purified by silica gel column chromatography eluting with ethyl acetate and hexanes (1:2) to give tert-butyl (3R,4R,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate in 76% yield. LC/MS=467.3 (M+H), Rt=1.09 min.

reactant | tert-butyl (3R,4R,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpiperidin-3-ylcarbamate | 1.0 equiv. | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](CNC[C@@H]1C)NC(OC(C)(C)C)=O | C17H36N2O3Si
reactant | DIEA | 2.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-3-nitropyridine | 1.5 equiv. | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | i-PrOH | 0.09 M | CC(C)O | C3H8O
product | tert-butyl (3R,4R,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate | 76% yield | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](CN(C[C@@H]1C)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C22H38N4O5Si
